US04621140
A solution of 2-acetylamino-6-chloro-9-[1,3-di(2,2-dimethylpropanoyloxy)-2-propoxymethyl]purine (200 mg) in methanolic ammonia (15 ml) was heated in a Parr bomb at 90° C. for 18 hours. The solution was evaporated and the residue recrystallized from methanol to give 136 mg of 2,6-diamino-9-(1,3-dihydroxy-2-propoxymethyl)purine, m.p. 176°-177° C.

reactant | 2-acetylamino-6-chloro-9-[1,3-di(2,2-dimethylpropanoyloxy)-2-propoxymethyl]purine | 200 mg | C(C)(=O)NC1=NC(=C2N=CN(C2=N1)COC(COC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Cl | C21H30ClN5O6
reactant | ammonia | 15 ml | N | H3N
product | 2,6-diamino-9-(1,3-dihydroxy-2-propoxymethyl)purine | 136 mg | NC1=NC(=C2N=CN(C2=N1)COC(CO)CO)N | C9H14N6O3
